US07151105B2
Step 1: 3-Bromo-5-ethyl-pyridine
A mixture of NaOH (10 g, 0.25 mol), hydrazine monohydrate (10 mL) and 3-acetyl-5-bromopyridine (5 g, 25 mmol) suspended in diethylene glycol (18 mL) was heated to 140° C. for 6 hours. The mixture was cooled to room temperature and partitioned between H2O and ether. The ether extracts were dried over MgSO4 and concentrated to a clear oil. Flash column chromatography (0% to 15% EtOAc in hexanes) gave the product as a clear oil (2.9 g, 58%). 1H NMR (400 MHz, CDCl3): δ 1.26 (t, J=7.6 Hz, 3 H), 2.65 (d, J=7.6 Hz, 2 H), 7.67 (t, J=2.0 Hz, 1 H), 8.37 (d, J=1.8 Hz, 1 H), 8.51 (d, J=2.0 Hz, 1 H).

reactant | NaOH | 0.25 mol, 10 g | [OH-].[Na+]
reactant | hydrazine monohydrate | 10 mL | O.NN
reactant | 3-acetyl-5-bromopyridine | 25 mmol, 5 g | C(C)(=O)C=1C=NC=C(C1)Br | C7H6BrNO
solvent | diethylene glycol | 18 mL | C(COCCO)O | C4H10O3
product | 3-Bromo-5-ethyl-pyridine | 2.9 g, 58% | BrC=1C=NC=C(C1)CC | C7H8BrN
